US06156700
Preparation of α-Bromo-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidyl]-1,2-benzisothiazole-3-acetonitrile
To a solution of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetonitrile (0.500 g, 0.00140 mol) in 1,2-dichloroethane is added N-bromosuccinimide (0.250 g, 0.00140 mol). The resultant mixture is irradiated with a UV lamp and stirred at reflux six hours. Additional N-bromosuccinimide (0.250 g, 0.00140 mol) is added and the resultant mixture is stirred 1.5 hours at reflux under a UV lamp. The mixture is cooled to room temperature and concentrated in vacuo. The resultant residue is taken up in methylene chloride, washed with water, treated with charcoal, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give the title product as a red glass (0.350 g, 56.2%, mp 185-187° C.) which is identified by IR and NMR spectral analyses.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetonitrile | 0.00140 mol, 0.500 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC#N)C1)=O | C15H9F3N4O2S
reactant | N-bromosuccinimide | 0.00140 mol, 0.250 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.00140 mol, 0.250 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | α-Bromo-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidyl]-1,2-benzisothiazole-3-acetonitrile | 0.350 g, 56.2% | BrC(C#N)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H8BrF3N4O2S
